US07825128B2
16) 4-[(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)-methyl]-benzenesulphonamide
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodopyrimidine, 4-aminomethyl-benzenesulphonamide and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 4-aminomethyl-benzenesulphonamide | NCC1=CC=C(C=C1)S(=O)(=O)N | C7H10N2O2S
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | 4-[(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)-methyl]-benzenesulphonamide | ClC1=NC=C(C(=N1)NCC1=CC=C(C=C1)S(=O)(=O)N)C=1SC=CC1 | C15H13ClN4O2S2
